Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
penicillin G / ACE Inhibitors
 
Attending: ___.
 
Chief Complaint:
Episodic confusion, blurred vision, whole body weakness
 
Major Surgical or Invasive Procedure:
Right carotid endarterectomy ___

 
History of Present Illness:
Mr. ___ is a ___ with PMH GBS aortic valve endocarditis
in ___ s/p AVR, HTN, cervical spine decompression/fusion who
presents from an outside hospital where he was found on carotid 
duplex to have an80% R carotid stenosis during his stroke 
workup. 

His symptoms started several months ago when he had occasional
episodes of blurry vision that would last ___ seconds before
going away, occurring about once a month. Then, 9 days ago, when
he was getting his mail and taking out his trash, he suddenly
felt "lightheaded" with blurry vision. He says he did not lose
consciousness, and was able to drive back to his house, but he
could not really see what was around him and had to crawl out of
his car. This episode lasted ___ minutes, then his symptoms
passed and he felt normal again. 6 days ago, he was in the
parking lot of a shopping center when he suddenly experienced
similar dizziness and blurry vision, and he started crawling
around with his hands over the cars in the lot. A nurse then
spotted him, gave him 3 aspirin and sent him to ___. This episode lasted about an hour, then resolved
completely over the course of that same day.

At the OSH, he had a brain MRI, an ECHO, and carotid duplex. 
Imaging review by the ___ radiology team revealed changes on 
MRI consistent with right-sided acute stroke. Review of duplex 
confirmed 80% stenosis on right with no occlusion/stenosis of 
the left. 

The patient was admitted to ___ ___ and 
decided to transfer his care to ___. He remained asymptomatic 
during his OSH stay.

Review of systems positive as per HPI. He denies fevers,
headaches, pain, chest pain, SOB above his baseline, nausea,
vomiting, changes in bowel or bladder habits, paresthesias or
weakness. No change in weight or appetite.

 
Past Medical History:
___ aortic valve endocarditis ___ c/b aortic root abscess
Osteomyelitis ___
AVR (23-mm SJM Trifecta tissue valve) ___
AF in the setting of AVR surgery.
Cervical Spine Decompression/Fusion ___
L5-S1 discectomy in ___ 

ALL: lisinopril (cough), penicillin G (asymptomatic 
eosinophilia)
 
Social History:
___
Family History:
None 
 
Physical Exam:
Vitals: T 98.5 HR 66 BP 138/71 RR 11 Sat 98%RA
General: Awake, alert, oriented x3
HEENT: Mucosa moist and pink. Neck supple, surgical site c/d/I 
with no drainage or bleeding.
Neurologic: CN ___ grossly in tact, gait WNL.
CV: Holoystolic murmur ___, Normal rate and rhythm 
Lungs: CLAB
Abd: obese, soft, benign without focal masses or ttp
Extremities: Atraumatic, without edema
 
Pertinent Results:
___ 04:09AM BLOOD WBC-12.0* RBC-3.24* Hgb-9.9* Hct-30.3* 
MCV-94 MCH-30.6 MCHC-32.7 RDW-13.0 RDWSD-44.4 Plt ___
___ 04:58PM BLOOD WBC-10.6* RBC-3.58* Hgb-11.1* Hct-34.0* 
MCV-95 MCH-31.0 MCHC-32.6 RDW-12.9 RDWSD-45.1 Plt ___
___ 04:09AM BLOOD Plt ___
___ 04:58PM BLOOD Plt ___
___ 04:09AM BLOOD Glucose-98 UreaN-14 Creat-0.9 Na-137 
K-3.9 Cl-105 HCO3-23 AnGap-13
___ 04:58PM BLOOD Glucose-91 UreaN-21* Creat-1.3* Na-137 
K-4.4 Cl-102 HCO3-23 AnGap-16
___ 04:09AM BLOOD Calcium-8.6 Phos-3.7 Mg-1.4*
___ 04:58PM BLOOD Calcium-9.8 Phos-3.4 Mg-1.7
 
Brief Hospital Course:
Mr. ___ is a ___ with PMH GBS aortic valve endocarditis
in ___ s/p AVR, HTN, cervical spine decompression/fusion who
presents from an outside hospital where he was found on carotid 
duplex to have an80% R carotid stenosis during his stroke 
workup. Following admission, outside imaging was obtained and 
re-evaluated by the ___ radiology department yielding the 
following results: brain MRI showing changes c/w acute 
right-sided stroke, and carotid duplex demonstrating 80% 
stenosis of the right carotid artery in the absence of left 
carotid stenosis/occlusion. 

On ___, following a discussion of risks and benefits during 
which informed consent was obtained, Mr. ___ was taken to the 
OR for right carotid endarterectomy under general endotracheal 
anesthesia. He underwent this procedure without complication and 
was transferred to the VICU for overnight management. An 
arterial line remained in place for blood pressure monitoring 
and his systolic blood pressures were maintained 100-140 mmHg. 
He was kept NPO and on fluids overnight however the following AM 
he was normalized to regular diet and ambulation. His foley 
catheter (placed postoperatively for urinary retention) was 
discontinued and he was able to void normally. His home 
medications were restarted. He was discharged home with follow 
up instructions and instructed to remain on lifelong aspirin 
81mg qd and statin. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 100-25 mg oral DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Bisacodyl 10 mg PO DAILY:PRN constipation 
7. Amlodipine 5 mg PO DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Omeprazole 20 mg PO DAILY 
4. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0
5. Amlodipine 5 mg PO DAILY 
6. Bisacodyl 10 mg PO DAILY:PRN constipation 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. losartan-hydrochlorothiazide 100-25 mg oral DAILY 
9. Metoprolol Succinate XL 100 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0
12. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium [Docuprene] 100 mg 1 tablet(s) by mouth 
twice a day Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right carotid artery stenosis 80%

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 DISCHARGE WORKSHEET INSTRUCTIONS

 Dear Mr. ___:

 You were admitted to the Vascular Surgery service for right 
carotid artery stenosis (narrowing) and underwent right carotid 
endarterectomy. Your procedure went well without complications 
and you are recovering well. At this time, you are eating 
normally, able to use the restroom without difficulty and have 
been restarted on all of your home medications. You are now 
ready to continue your recovery at home, with the following 
instructions.

CAROTID ENDARTERECTOMY

 MEDICATIONS:
_x0095_ Take Aspirin 81mg daily
_x0095_ Continue all other medications you were taking before surgery, 
unless otherwise directed
_x0095_ You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

 ACTIVITIES:
_x0095_ When you go home, you may walk and go up and down stairs
_x0095_ You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
_x0095_ Your incision may be left uncovered. If you have small amounts 
of drainage from the wound, then place a dry dressing or band 
aid on that area
_x0095_ No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week 
_x0095_ After 1 week, you may resume sexual activity
_x0095_ After 1 week, gradually increase your activities and distance 
walked as you can tolerate
_x0095_ No driving until you are no longer taking pain medications as 
they can make you sleepy

 CALL THE OFFICE at ___ FOR:
_x0095_ Changes in vision (loss of vision, blurring, double vision, 
half vision)
_x0095_ Slurring of speech or difficulty finding correct words to use
_x0095_ Severe headache or worsening headache not controlled by pain 
medication
_x0095_ A sudden change in the ability to move, use or feel your arm 
or leg
_x0095_ Trouble swallowing, breathing, or talking
_x0095_ Numbness, coldness or pain in lower extremities
_x0095_ Temperature greater than 101.5F for 24 hours
_x0095_ New or increased drainage from incision or white, yellow or 
green drainage from incisions
_x0095_ Bleeding from surgical site

 FOR SUDDEN, SEVERE BLEEDING OR SWELLING (at the surgical site):
_x0095_ Apply continuous, firm pressure to area for 10 minutes. If 
bleeding stops, call vascular office at ___
_x0095_ If bleeding does not stop immediately, call ___ for transfer 
to the nearest Emergency Room

 
Followup Instructions:
___